US03943154
A mixture of 20.8 g (0.1 mol) of 3-(4-aminobenzenesulfonyl)acrylonitrile and 11.2 g (0.1 mol) of 1,4-diazabicyclo-[2.2.2]-octane in 500 ml of chloroform is stirred at about 15°-25° C while trifluoromethanesulfonic acid anhydride is slowly added thereto. The reaction mixture is stirred for an additional hour and is then washed several times with dilute HCl and water, filtered, dried over anhydrous magnesium sulfate, and evaporated to dryness. The recovered solid can be recrystallized from ethanol to give 3-(4-trifluorosulfonamidobenzenesulfonyl)acrylonitrile (or 2-cyanovinyl 4-trifluoromethanesulfonamidophenyl sulfone): ##SPC5##

reactant | 3-(4-aminobenzenesulfonyl)acrylonitrile | 0.1 mol, 20.8 g | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | 1,4-diazabicyclo-[2.2.2]-octane | 0.1 mol, 11.2 g | N12CCN(CC1)CC2 | C6H12N2
reactant | trifluoromethanesulfonic acid anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-cyanovinyl 4-trifluoromethanesulfonamidophenyl sulfone | FC(S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N)(F)F | C10H7F3N2O4S2
